US06225310B1
(R)-6-Chloro-3-(2-hydroxypropyl)amino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
A solution of 3,6-dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide (200 mg, 0.78 mmol) in (R)-(−)-1-amino-2-propanol (1.0 ml) was stirred for 18 h at 100° C. in a sealed flask. The cooled solution was stirred with water (3 ml) at 0° C. followed by adjustment to pH 2 with 4M hydrochloric acid. The product was isolated by filtration, washed with water, and dried in vacuo at room temperature to give 170 mg (74%) of the pure title compound; mp 210-211° C.; 1H-NMR (DMSO-d6): δ1.08 (d, 3H), 3.0-3.1 (m, 1H), 3.15-3.25 (m, 1H), 3.72-3.82 (m, 1H), 4.91 (br s, 1H), 7.09 (s, 1H), 7.14 (br s, 1H), 10.95 (br s, 1H); MS: m/e 297/295(M+); (C8H10N3Cl1O3S2 .0.5 H2O) calc C, 31.53; H, 3.64; N, 13.79; found C, 31.57; H, 3.58; N, 13.58.

reactant | 3,6-dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 0.78 mmol, 200 mg | ClC1=NS(C2=C(N1)C=C(S2)Cl)(=O)=O | C5H2Cl2N2O2S2
reactant | water | 3 ml | O | H2O
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | (R)-(−)-1-amino-2-propanol | 1.0 ml | NC[C@@H](C)O | C3H9NO
product | (R)-6-Chloro-3-(2-hydroxypropyl)amino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 170 mg, 74% | ClC1=CC=2NC(=NS(C2S1)(=O)=O)NC[C@@H](C)O | C8H10ClN3O3S2
